US09085578B2
A) 1-(sec-butyl)-4-methoxy-2-oxo-1,2-dihydropyridine-3-carbonitrile
To a mixture of 4-methoxy-2-oxo-1,2-dihydropyridine-3-carbonitrile (500 mg), cesium carbonate (2.17 g), potassium iodide (553 mg) N,N-dimethylformamide (10 mL) and 1,2-dimethoxyethane (10 mL) was added 2-bromobutane (776 mg) at room temperature, and the mixture was stirred overnight at 60° C. The reaction mixture was diluted with saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted threetimes with ethyl acetate. The extracts were combined, washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (330 mg).

reactant | 4-methoxy-2-oxo-1,2-dihydropyridine-3-carbonitrile | 500 mg | COC1=C(C(NC=C1)=O)C#N | C7H6N2O2
reactant | cesium carbonate | 2.17 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 10 mL, 553 mg | [I-].[K+]
reactant | 2-bromobutane | 776 mg | BrC(C)CC | C4H9Br
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
product | 1-(sec-butyl)-4-methoxy-2-oxo-1,2-dihydropyridine-3-carbonitrile | 330 mg | C(C)(CC)N1C(C(=C(C=C1)OC)C#N)=O | C11H14N2O2
